US09056832B2
Methyl 6-(4′-fluoro-[1,1′-biphenyl]-4-yl)-4-vinylpicolinate (600 mg, 1.8 mmol) was dissolved in 10 mL of methanol in a pressure tube. Into the tube was condensed about 10 mL ammonia at −20° C. to −30° C. The pressure tube was tightly closed and the resulting solution was stirred at room temperature for overnight. TLC (silica gel, 10% methanol in chloroform) showed the reaction had gone to completion. The ammonia was removed by nitrogen purge and the methanol was removed under reduced pressure to obtain 300 mg of 6-(4′-fluoro-[1,1′-biphenyl]-4-yl)-4-vinylpicolinamide which was pure enough to take to next step without purification.

reactant | Methyl 6-(4′-fluoro-[1,1′-biphenyl]-4-yl)-4-vinylpicolinate | 1.8 mmol, 600 mg | FC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC(=CC(=N1)C(=O)OC)C=C | C21H16FNO2
reactant | ammonia | about 10 mL | N | H3N
solvent | methanol | 10 mL | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-(4′-fluoro-[1,1′-biphenyl]-4-yl)-4-vinylpicolinamide | 300 mg | FC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC(=CC(=N1)C(=O)N)C=C | C20H15FN2O
